US05523278
Preparation of N-[3-(Allyloxy)-1,2-benzisoxazol -5-yl]-1-cyclohexene-1,2-dicarboximide
A mixture of N-(3-hydroxy-1,2-benzisoxazol-5-yl)-1-cyclohexene-1,2-dicarboximide (0.75 g, 2.64 mmol), potassium carbonate (0.6 g, 4.35 mmol) and allyl bromide (1 g, 8.3 mmol) in N,N-dimethylformamide is heated at 60°-70° C. for 2 hours and diluted with water. The aqueous mixture is extracted with ether. The organic extracts are combined, washed sequentially with water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a yellow oil. Column chromatography of the oil using silica gel and ether/hexanes solutions yields a gum. A solution of the gum in an ether/hexanes mixture is passed through a plug of silica gel and crystallized to give the title product as a pale yellow solid, mp 88°-89° C.

reactant | N-(3-hydroxy-1,2-benzisoxazol-5-yl)-1-cyclohexene-1,2-dicarboximide | 2.64 mmol, 0.75 g | OC1=NOC2=C1C=C(C=C2)N2C(=O)C1=C(CCCC1)C2=O | C15H12N2O4
reactant | potassium carbonate | 4.35 mmol, 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 8.3 mmol, 1 g | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[3-(Allyloxy)-1,2-benzisoxazol -5-yl]-1-cyclohexene-1,2-dicarboximide | C(C=C)OC1=NOC2=C1C=C(C=C2)N2C(=O)C1=C(CCCC1)C2=O | C18H16N2O4
